US04182881
A. N-[Dichlorophosphinyl]-4-methoxybenzamide
A suspension of 47 g (0.31 mole) of 4-methoxybenzamide, 64.7 g (0.31 mole) of phosphorus pentachloride and 500 ml of AR carbon tetrachloride was heated at 60°-70° for 45 min. by which time the HCl evolution had nearly stopped. Cooled to room temperature where 14.8 g (0.31 mole) of 97% formic acid was added dropwise. The reaction was stirred for an additional 30 min., then filtered, washed with AR carbon tetrachloride and air-dried to give 73.4 g, m.p. 92°-93°.

reactant | 4-methoxybenzamide | 0.31 mole, 47 g | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
reactant | phosphorus pentachloride | 0.31 mole, 64.7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | formic acid | 0.31 mole, 14.8 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-4-methoxybenzamide | ClP(=O)(NC(C1=CC=C(C=C1)OC)=O)Cl | C8H8Cl2NO3P
